US05019577
(a) Preparation of Diethyl N-(4-amino-3-methylbenzoyl)-(L)-glutamate
A solution of diethyl N-(3-methyl-4-nitrobenzoyl)-(L)-glutamate (Cosulich, D. B. et al., J. Am. Chem. Soc., 1953, 75, 4675) (11.0 g, 30.0 mmoles) in 95% ethanol (250 mL) was mixed with 10% palladium on carbon (0.8 g) and placed on a Parr apparatus. The mixture was shaken under hydrogen atmosphere for 2 hours. The reaction mixture was filtered, spin evaporated, and dried to give a beige solid; yield, 10.1 g (100%); mp 79°-82° C.; 1H-NMR (DMSO-d6) δ 1.15 and 1.16 (2t overlapped, 6H), 2.00 (m, 2H), 2.06 (s, 3H), 2.39 (t, 2H), 4.03 and 4.06 (2q overlapped, 4H), 4.33 (m, 1H), 5.40 (s, 2H), 6.56 (d, Jo=8 Hz, 1H), 7.47 (d, Jo=8 Hz, 1H), 7.50 (s, 1H), 8.16 (d, 1H); uv (MeOH) 284 nm max (17000), 241 min (3020); mass spec (CI) m/e 337 (44%), 134 (100).

reactant | diethyl N-(3-methyl-4-nitrobenzoyl)-(L)-glutamate | 30.0 mmoles, 11.0 g | CC=1C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=CC1[N+](=O)[O-] | C17H22N2O7
reactant | MeOH | CO | CH4O
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | Diethyl N-(4-amino-3-methylbenzoyl)-(L)-glutamate | NC1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)C | C17H24N2O5
